US09226922B2
Ethyl 4-methyl-3-oxopentanoate (4.5 mL, 27.9 mmol) and ammonium acetate (12.05 g, 156 mmol) in MeOH (50 mL) was stirred at room temperature overnight. The solvent was evaporated in vacuo and chloroform (50 mL) was added. The resulting solid was filtered and washed with chloroform (2×25 mL). The combined filtrate was washed with water (30 mL) and brine (30 mL), dried over Na2SO4, and concentrated in vacuo to give ethyl 3-amino-4-methylpent-2-enoate, which was carried onto the next step without further purification. MS ESI calc'd. for C8H15NO2 [M+1]+ 158. found 158.

reactant | Ethyl 4-methyl-3-oxopentanoate | 27.9 mmol, 4.5 mL | CC(C(CC(=O)OCC)=O)C | C8H14O3
reactant | ammonium acetate | 156 mmol, 12.05 g | C(C)(=O)[O-].[NH4+]
solvent | MeOH | 50 mL | CO | CH4O
product | ethyl 3-amino-4-methylpent-2-enoate | NC(=CC(=O)OCC)C(C)C | C8H15NO2
